US05461055
Methoxyethoxymethyl chloride (MEM) (19 g, 153 mmol) was added to a solution of 5-hydroxy-2-pyridinecarboxaldehyde (18.4 g, 149 mmol) in 300 ml DMF. NaH (6.3 g of 60% oil dispersion, 158 mmol) were added in portions while cooling the mixture to maintain 20°-30° C. The mixture was stirred an additional 1 hour at 25° C. 5 ml water were added, most of the solvent was evaporated, and water was added to the residue,The mixture was extracted with EtOAc. The extracts were dried over Na2SO4, filtered, and evaporated to a residue. The residue was chromatographed on silica gel eluting with EtOAc-hexanes (35:65) to obtain 5-[(2-methoxyethoxy)methoxy]-2-pyridinecarboxaldehyde: C10H13NO4 (211.22); 1H-NMR (CDCl3) δ10.01 (s,1), 8.52 (d,1), 7.93 (d,1), 7.49 (m,1), 5.39 (s,2), 3.80 (m,2), 3.53 (m,2), 3.32 (s,3).

reactant | Methoxyethoxymethyl chloride | 153 mmol, 19 g | COCCOCCl | C4H9ClO2
reactant | 5-hydroxy-2-pyridinecarboxaldehyde | 149 mmol, 18.4 g | OC=1C=CC(=NC1)C=O | C6H5NO2
reactant | NaH | 158 mmol, 6.3 g | [H-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 5-[(2-methoxyethoxy)methoxy]-2-pyridinecarboxaldehyde | COCCOCOC=1C=CC(=NC1)C=O | C10H13NO4
